US08222416B2
To a suspension of 1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridine (4.2 g, 15.4 mmol) in dry tetrahydrofuran (200 mL) at −78° C. was added a solution of n-butyllithium in n-hexane (2.5 M, 9.3 mL, 23.2 mmol) dropwise. The mixture was stirred at −78° C. for 5 min and then treated with cyclopentanecarbaldehyde (3.45 g, 30.8 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×200 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 60% dichloromethane/hexanes) afforded 1-(1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol (3.13 g, 53%): LC/MS m/e calcd for C21H24N2O3S [M+H]+ 385.50, observed 384.9.

reactant | 1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridine | 15.4 mmol, 4.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C | C14H12N2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 23.2 mmol, 2.5 M, 9.3 mL | CCCCCC | C6H14
reactant | cyclopentanecarbaldehyde | 30.8 mmol, 3.45 g | C1(CCCC1)C=O | C6H10O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-5-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol | 3.13 g, 53% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C)C(CC2CCCC2)O | C21H24N2O3S
